US08304371B2
3-bromo-4-(bromomethyl)benzoic acid (5 g), 1-(trimethylsilyl)methylamine (1.76 g), N,N-dimethylaminopyridine (0.1 g) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (4.3 g) were dissolved in dichloromethane (30 ml), and stirred for 5 hours at room temperature. Water was added to the reaction mixture, and then organic layer was separated and dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain 3-bromo-4-(bromomethyl)-N-[(trimethysilyl)methyl]benzamide (4 g).

reactant | 3-bromo-4-(bromomethyl)benzoic acid | 5 g | BrC=1C=C(C(=O)O)C=CC1CBr | C8H6Br2O2
reactant | 1-(trimethylsilyl)methylamine | 1.76 g | C[Si](CN)(C)C | C4H13NSi
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.3 g | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-bromo-4-(bromomethyl)-N-[(trimethysilyl)methyl]benzamide | 4 g | BrC=1C=C(C(=O)NC[Si](C)(C)C)C=CC1CBr | C12H17Br2NOSi
